US05281590
8-chloro-3-hydroxydibenz[b,f]1,4oxazepine-10(11H)-carboxylic acid, 2-[3-(ethylsulfonyl)-1-oxopropyl]hydrazide
To a stirred solution of boron tribromide (I.0M in 7.3 mL of methylene chloride) at approximately 5° C. (ice water bath) under nitrogen was added dropwise 1.09 g of 8-chloro-3-methoxydibenz[b,f][1,4]oxazepine-10(11H)-carboxylic acid, 2-[3-(ethylsulfonyl)-1-oxopropyl]hydrazide, prepared as described above in Example 7, in 5 mL of methylene chloride. The ice bath was removed and the reaction stirred at room temperature for 3 hours. The reaction was carefully quenched by the addition of 10 mL of 1N HCl, and poured into 150 mL of ethyl acetate. The solution was washed with 150 mL of 1N HCl and brine, dried over magnesium sulfate, and evaporated in vacuo to a greenish residue. This was treated with 10 mL of ethanol (3A), and the resulting solid was collected by filtration. Recrystallization from ethanol (3A) yielded 0.58 g (54.9%) pure product as a white solid.

reactant | boron tribromide | 0M, 7.3 mL | B(Br)(Br)Br | BBr3
reactant | 8-chloro-3-methoxydibenz[b,f][1,4]oxazepine-10(11H)-carboxylic acid, 2-[3-(ethylsulfonyl)-1-oxopropyl]hydrazide | 1.09 g | C(C)S(=O)(=O)CCC(=O)NNC(=O)N1C2=C(OC3=C(C1)C=CC(=C3)OC)C=CC(=C2)Cl | C20H22ClN3O6S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 8-chloro-3-hydroxydibenz[b,f]1,4oxazepine-10(11H)-carboxylic acid, 2-[3-(ethylsulfonyl)-1-oxopropyl]hydrazide | 0.58 g, 54.9% | C(C)S(=O)(=O)CCC(=O)NNC(=O)N1C2=C(OC3=C(C1)C=CC(=C3)O)C=CC(=C2)Cl | C19H20ClN3O6S
